US07291635B2
A solution of the title A compond, ((S)-2-(4-[5-{4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester (64 mg, 0.108 mmol) in CH2Cl2 (1 mL) is treated with TFA (1 mL). After 20 min, the solvent is evaporated under stream of nitrogen. The residue is partitioned between EtOAc and saturated aqueous NaHCO3, and the organic solution is washed with brine, dried over anhydrous MgSO4, filtered and concentrated to yield (S)-2-amino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide as a white solid: [M+1]+=489.

reactant | ((S)-2-(4-[5-{4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester | 0.108 mmol, 64 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)C(NCCCCC)=O)=O | C29H40N4O7S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide | N[C@H](C(=O)NCCCCC)CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C24H32N4O5S
